US05872136
Step C: 2-Phenyl-5-carboxypyridine
A suspension of 2-phenyl-5-methyl pyridine (1.03 g, 6.09 mmol) and potassium permanganate (2.89 g, 18.3 mmol), in water (25 mL) was heated at reflux for 2 hours. The reaction was allowed to cool to ambient temperature and filtered through celite to remove the solids. Acetic acid (1 mL) was added to the colourless filtrate and the product was collected as a white solid by filtration.

reactant | 2-phenyl-5-methyl pyridine | 6.09 mmol, 1.03 g | C1(=CC=CC=C1)C1=NC=C(C=C1)C | C12H11N
reactant | potassium permanganate | 18.3 mmol, 2.89 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 25 mL | O | H2O
product | 2-Phenyl-5-carboxypyridine | C1(=CC=CC=C1)C1=NC=C(C=C1)C(=O)O | C12H9NO2
